US05994291
Synthesis of (E)-(R)-2-Ethyl-4-(2,2,3-trimethylcyclopent-3-en-1-yl)-2-buten-1-ol
In the same manner as in Example 2, the title compound was prepared by hydrogenating (E)-(R)-2-ethyl-4-(2,2,3-trimethylcyclopent-3-en-1-yl)-2-buten-1-al which was synthesized from (1S,5S)-α-pinene having an optical purity varying from 50% e.e. to 92% e.e.

reactant | (E)-(R)-2-ethyl-4-(2,2,3-trimethylcyclopent-3-en-1-yl)-2-buten-1-al | C(C)/C(/C=O)=C\C[C@@H]1C(C(=CC1)C)(C)C | C14H22O
reactant | (1S,5S)-α-pinene | CC1=CC[C@H]2C[C@@H]1C2(C)C | C10H16
product | (E)-(R)-2-Ethyl-4-(2,2,3-trimethylcyclopent-3-en-1-yl)-2-buten-1-ol | C(C)/C(/CO)=C\C[C@@H]1C(C(=CC1)C)(C)C | C14H24O
